US06346625B1
a) 4-Cyano-3-(2,4-dimethoxybenzyl)-5-{1(S)-[3(S)-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-cyclopentyl]-3-indolyl}-1-(1-methyl-3-indolyl)-2,3-dihydroimidazol-2-one
Two portions of totally 0.72 g (2.33 mmol) of 1(R)-O-Methanesulfonyl-3(S)-phthalimido-cyclopentane and two portions of totally 1.33 g (4.05 mmol) of cesium carbonate were added within 1.5 hours, to a stirred solution of 0.26 g (0.51 mmol) 4-cyano-3-(2,4-dimethoxybenzyl)-5-(3-indolyl)-1-(1-methyl-3-indolyl)-2,3-dihydroimidazol-2-one in 3 ml of dry DMF at 70° C. After an additional 2 hours, the reaction mixture was cooled to room temperature and partitioned between ethyl acetate and saturated brine. The aqeous phase was back-extracted with ethyl acetate and the combined organic extracts washed three times with saturated brine, dried over Na2SO4 and concentrated. The residue was purified by chromatography on SiO2 (EtOAc-heptane, 3:2). The fractions containing the desired product were combined and crystallized (chloroform:ether) to give the sub-title compound (0.20 g, 54%).

reactant | cesium carbonate | 4.05 mmol, 1.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-cyano-3-(2,4-dimethoxybenzyl)-5-(3-indolyl)-1-(1-methyl-3-indolyl)-2,3-dihydroimidazol-2-one | 0.51 mmol, 0.26 g | C(#N)C=1N(C(N(C1C1=CNC2=CC=CC=C12)C1=CN(C2=CC=CC=C12)C)=O)CC1=C(C=C(C=C1)OC)OC | C30H25N5O3
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-Cyano-3-(2,4-dimethoxybenzyl)-5-{1(S)-[3(S)-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-cyclopentyl]-3-indolyl}-1-(1-methyl-3-indolyl)-2,3-dihydroimidazol-2-one | 0.20 g, 54% | C(#N)C=1N(C(N(C1C1=CN(C2=CC=CC=C12)[C@@H]1C[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CN(C2=CC=CC=C12)C)=O)CC1=C(C=C(C=C1)OC)OC | C43H36N6O5
